US05700809
1-(4-Hydroxy-4-[1-triisopropylsilyl-1H-indol-5-yl]-piperidin-1-yl)ethanone (3.11 g, 7.4 mmol) in dichloromethane (100 ml) was treated with pyridinium p-toluenesulfonate (3.8 g, 15.1 mmol) and stirred for 72 hours. The solution was poured into water and extracted with dichloromethane (100 ml). The extractions were dried (MgSO4), concentrated and the crude product purified by flash chromatography using ethyl acetate as eluant, to give 1-(4-[1-triisopropylsilyl-1H-indol-5-yl]-1,2,3,6-tetrahydropyridin-1-yl)-ethanone (1.95 g, 66%) as a white solid; δH (CDCl3) 0.80 (18H, d, J 8.5 Hz, 6×CH3), 1.30 (3H, m, 3×CH), 1.75 (3H, d, J 6.7 Hz, COCH3), 2.30 (2H, m, tetrahydropyridinyl H), 3.25 (1H, t, J 5.6 Hz, tetrahydropyridinyl H), 3.40 (1H, t, J 5.6 Hz, tetrahydropyridinyl H), 3.75 (1H, m, tetrahydropyridyl H), 3.85 (1H, m, tetrahydropyridyl H), 5.60 (1H, m, CH=CR), 6.20 (1H, d, J 2.2 Hz, ArH), 6.80 (2H, m, ArH), 7.00 (1H, d, J 7.3 Hz, ArH), and 7.20 (1H, m, ArH).

reactant | 1-(4-Hydroxy-4-[1-triisopropylsilyl-1H-indol-5-yl]-piperidin-1-yl)ethanone | 7.4 mmol, 3.11 g | OC1(CCN(CC1)C(C)=O)C=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C | C24H38N2O2Si
reactant | pyridinium p-toluenesulfonate | 15.1 mmol, 3.8 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(4-[1-triisopropylsilyl-1H-indol-5-yl]-1,2,3,6-tetrahydropyridin-1-yl)-ethanone | 1.95 g, 66% | C(C)(C)[Si](N1C=CC2=CC(=CC=C12)C=1CCN(CC1)C(C)=O)(C(C)C)C(C)C | C24H36N2OSi
